US03984336
Preparation of β-(2-Benzothiazolyl)mercaptopropionitrile
2-Mercaptobenzothiazole (25.0 g; 0.15 moles) was mixed with t-butanol (125 ml) and benzyltrimethylammonium hydroxide (40% in methanol; 3 ml). Acrylonitrile (15.9 g; 0.30 moles) was added dropwise and the mixture stirred at room temperature for 7 days. The product was removed by filtration and recrystallized from benzene.

reactant | 2-Mercaptobenzothiazole | 0.15 moles, 25.0 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | benzyltrimethylammonium hydroxide | 3 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | Acrylonitrile | 0.30 moles, 15.9 g | C(C=C)#N | C3H3N
solvent | t-butanol | 125 ml | C(C)(C)(C)O | C4H10O
product | β-(2-Benzothiazolyl)mercaptopropionitrile | S1C(=NC2=C1C=CC=C2)SCCC#N | C10H8N2S2
